US04622322
(a) α-Acetylthioacetophenone
To a solution of 54.0 g (1.0M) sodium methoxide in 100 ml absolute ethanol stirring under nitrogen at reflux temperature 74 ml (76.1 g, 1.0M) thioacetic acid is added dropwise over a period of 0.5 hours. Upon complete addition the solution is refluxed for 15 minutes. To the yellow solution stirring under nitrogen atmosphere at reflux temperature, a solution of 199.1 g (1.0M) α-bromoacetophenone in 800 ml absolute ethanol is added rapidly dropwise over a period of 70 minutes. After complete addition, the suspension formed is refluxed for 3 hours. The reaction mixture is cooled and the precipitated NaBr is removed by vacuum filtration. The filtrate is concentrated in vacuo to give a brown oil with some solid present. This mixture is suspended in 500 ml of ether and is filtered to remove insoluble NaBr. The filtrate is stirred with activated charcoal for 0.5 hours, filtered, and concentrated in vacuo to give a red-brown oil. This oil is purified by vacuum distillation and the fraction is collected at 133°-137°/0.2-0.05 mm Hg and characterized by NMR as α-acetylthioacetophenone.

reactant | sodium methoxide | 1.0M, 54.0 g | C[O-].[Na+]
reactant | thioacetic acid | 1.0M, 74 ml, 76.1 g | C(C)(=S)O | C2H4OS
reactant | α-bromoacetophenone | 1.0M, 199.1 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | ethanol | 100 ml | C(C)O | C2H6O
reactant | ethanol | 800 ml | C(C)O | C2H6O
solvent | ether | 500 ml | CCOCC | C4H10O
product | α-Acetylthioacetophenone | C(C)(=O)CC(=S)C1=CC=CC=C1 | C10H10OS
